US04599361
E and Z N-[3-(benzyloxycarbonyl)-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide (3.0 g.) was heated under reflux for 2 hours in ethanol (60 mls.) and cyclohexene (30 mls.) in the presence of 10% palladium on charcoal (0.75 g.). The resultant reaction mixture was filtered through Celite and the solvent removed by evaporation in vacuo to yield a gum. This gum was crystallized from methanol/water to yield E and Z N-[3-carboxy-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide.

reactant | N-[3-(benzyloxycarbonyl)-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide | 3.0 g | CNC([C@@H](NC(C(=CC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C26H32N2O5
reactant | cyclohexene | 30 mls | C1=CCCCC1 | C6H10
solvent | ethanol | 60 mls | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.75 g | [Pd] | Pd
product | N-[3-carboxy-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide | CNC([C@@H](NC(C(=CC(=O)O)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C19H26N2O5
